US05726175
The procedure is as in Example 1 but starting from 5 g of diethyl 1-(6-chloro-1-oxoindan-2-yl)imidazole-2,4-dicarboxylate, 118 g of ammonium acetate and 190 ml of acetic acid. After washing the precipitate with water and then with methyl ethyl ketone, the solid obtained is first of all ground in acetonitrile and then in methanol and finally in acetone to obtain 2.7 g of ethyl 7-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in the form of a brown solid melting above 260° C. (analysis % calculated C: 58.28, H: 3.67, Cl: 10.75, N: 12.74; % found C: 58.6, H: 3.4, Cl: 10.4, N: 13.1).

reactant | diethyl 1-(6-chloro-1-oxoindan-2-yl)imidazole-2,4-dicarboxylate | 5 g | ClC1=CC=C2CC(C(C2=C1)=O)N1C(=NC(=C1)C(=O)OCC)C(=O)OCC | C18H17ClN2O5
reactant | ammonium acetate | 118 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 190 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 7-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 2.7 g | ClC=1C=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C1 | C16H12ClN3O3
